US06987114B1
1-(3-Methoxybenzyl)-5-ethyl-6-(3,5-dimethylphenoxy)-2,4-pyrimidinedione
5-Ethyl-6-(3,5-dimethylphenoxy)-2,4-pyrimidinedione and 3-methoxybenzyl bromide were reacted by the same way with the example 1 to obtain the titled compound (213 mg, yield: 56.0%).

reactant | 5-Ethyl-6-(3,5-dimethylphenoxy)-2,4-pyrimidinedione | C(C)C=1C(NC(NC1OC1=CC(=CC(=C1)C)C)=O)=O | C14H16N2O3
reactant | 3-methoxybenzyl bromide | COC=1C=C(CBr)C=CC1 | C8H9BrO
product | 1-(3-Methoxybenzyl)-5-ethyl-6-(3,5-dimethylphenoxy)-2,4-pyrimidinedione | 213 mg, yield: 56.0% | COC=1C=C(CN2C(NC(C(=C2OC2=CC(=CC(=C2)C)C)CC)=O)=O)C=CC1 | C22H24N2O4
